Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
atorvastatin / Vicodin / Sudafed
 
Attending: ___.
 
Chief Complaint:
dizziness/light-headedness, tinnitus and gait unsteadiness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed woman with a history of 
atrial fibrillation (not on anticoagulation), who presented to 
the ED with 4 days of dizziness, headache, and ringing in her 
ears. 

Four days ago, she awoke in her usual state of health.  She sat 
up in bed and had sudden onset of room spinning vertigo.  This 
was not associated with any nausea or vomiting.  It lasted for 
several minutes and then resolved.  When she got up to walk, she 
was unsteady, "staggering" on her feet, though did not fall.  
Despite having no recurrence of her vertigo, she has had 
persistent gait unsteadiness these past few days.  She also 
describes feeling occasionally "lightheaded".

She has no associated numbness or weakness and no history of 
similar symptoms in the past.  She denies recent infectious 
symptoms.  She also reports a bilateral headache and bilateral 
tinnitus since then.  The tinnitus is like the "sizzle" sound of 
tires losing air.  The headache is described as a heaviness in 
her head, associated with mild photophobia.  She has no pain 
with
EOM.  She previously had similar headaches prior to menopause.  
She made an appointment at her PCPs office to be evaluated for 
her symptoms.  There, there was concern for left-sided ptosis. 
The patient had not noticed this until she looked in the mirror. 
 It is not currently present.  She was referred to the ED for 
neurologic evaluation.  

ROS:
On neuro ROS, the pt reports bilateral tinnitus and headaches. 
She has chronic hearing loss - no recent changes. She denies 
loss of vision, blurred vision, diplopia, dysarthria, dysphagia. 
Denies difficulties producing or comprehending speech.  Denies 
focal weakness, numbness, parasthesiae. No bowel or bladder
changes.  
 
On general review of systems, the pt reports intermittent 
palpitations. Denies recent fever or chills.  No night sweats or 
recent weight loss or gain. Denies cough, shortness of breath.  
Denies chest pain or tightness, palpitations.  Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No dysuria. 
Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
atrial fibrillation, not on anticoagulation
COPD
HLD
Chronic bilateral sensorineural hearing loss
Lung cancer (squamous cell) s/p pneumonectomy ___ years ago, in
remission
Raynauds
Psoriasis
DJD
Anxiety
Diverticulosis
Hemorrhoids
s/p cholecystectomy
s/p prophylactic hysterectomy (later tested and BRCA negative)
breast cancer in ___ s/p mastectomy, in remission
 
Social History:
___
Family History:
- sister with ovarian and breast cancer
- mother: breast cancer
- brother: bladder cancer
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: 98.6  106  155/81  16  100% RA 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM
 Neck: Supple.
 Pulmonary: CTA on the left 
 Cardiac: RRR though mildly tachycardic, no murmurs
 Abdomen: soft, nondistended
 Extremities: Warm and well perfused
 Skin: no rashes or lesions noted.
  
 Neurologic:
-Mental Status: Alert and inattentive, makes mistakes with 
naming
the ___ backward.  Able to relate history though has some
difficulty relating fine details.  Language is fluent with 
intact
repetition and normal prosody.  There were no paraphasic errors. 

Pt. was able to name both high and low frequency objects on the
stroke card.  Able to read a sentence.  Described the cookie jar
picture accurately.  Speech was not dysarthric.  Able to follow
both midline and appendicular commands. 
 

-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm; brisk bilaterally.  VFF to confrontation
with no extinction to double simultaneous stimulation.
 III, IV, VI: EOMI. no ptosis is seen.  There is subtle gaze
evoked nystagmus -right beating with rightward gaze and left
beating with a clockwise torsional component on leftward gaze;
this does not extinguish.
 V: Facial sensation intact to light touch in all distributions
 VII: No facial droop, facial musculature symmetric 
 VIII: Hard of hearing at baseline.  Hearing absent to finger 
rub
bilaterally, present leaning forward vibration bilaterally.  The
Weber test lateralizes to the right ear.  
 IX, X: Palate elevates symmetrically.
 XI: Shoulder shrug is symmetric.
 XII: Tongue protrudes in midline with full range of motion left
and right.

 -Motor: No pronator drift bilaterally.  Mild left-sided 
postural
tremor noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  ___  >4*  5    5     5   
 R  ___   ___  ___   5   5    5     5  
*limited by knee pain 
   
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   3    3     2     3    0
 R   3    3     2     3    0
- Plantar response was flexor on the right, equivocal on the
left.
- Pectoralis Jerks are present, and Crossed Adductors are
present. 
  
-Sensory: No deficits to light touch, pinprick, proprioception,
vibration throughout. No extinction to DSS. 

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally.  No overshoot with mirroring.

-Gait: Able to sit unsupported without truncal ataxia.  Stands
without retropulsion though stumbles to the right soon after
standing up.  She sways when she puts her feet together with 
eyes
open though does not step out.  Base is narrow, stride is
somewhat short and she appears cautious. 
   
-NIHSS: 0

DISCHARGE PHYSICAL EXAM:
=======================
Vitals: 98.6  HR70  BP:139/81  16  99% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM
Neck: Supple.
Pulmonary: CTA on the left 
Cardiac: RRR though mildly tachycardic, no murmurs
Abdomen: soft, nondistended
Extremities: Warm and well perfused
Skin: no rashes or lesions noted.
  
 Neurologic:
-Mental Status: Alert and inattentive, makes mistakes with 
naming the ___.  Able to relate history though has some 
difficulty relating fine details.  Language is fluent with 
intact repetition and normal prosody.  There were no paraphasic 
errors.  Speech was not dysarthric.  Able to follow
both midline and appendicular commands. 
 
-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm; brisk bilaterally.  VFF to confrontation
with no extinction to double simultaneous stimulation.
 III, IV, VI: EOMI. No ptosis is seen.  Subtle end-gaze 
nystagmus with R and L gaze.
 V: Facial sensation intact to light touch in all distributions
 VII: No facial droop, facial musculature symmetric 
 VIII: Hard of hearing at baseline.  Hearing absent to finger 
rub
bilaterally.  
 IX, X: Palate elevates symmetrically.
 XI: Shoulder shrug is symmetric.
 XII: Tongue protrudes in midline with full range of motion left
and right.

 -Motor: No pronator drift bilaterally.  Mild left-sided 
postural
tremor noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  4+   ___   ___   5   5  >4*  5    5     5   
 R  ___   ___  ___   5   5    5     5  
*limited by knee pain 
   
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   3    3     2     3    0
 R   3    3     2     3    0
- Plantar response was flexor on the right, equivocal on the 
left.
- Pectoralis Jerks are present, and Crossed Adductors are 
present. 
  
-Sensory: No deficits to light touch, pinprick, proprioception, 
vibration throughout. No extinction to DSS. 

-Coordination: No intention tremor noted. No dysmetria on FNF or 
HKS bilaterally.  No overshoot with mirroring.

-Gait: Able to sit unsupported without truncal ataxia.  Stands 
without retropulsion. Base is narrow, stride is somewhat short 
and she appears cautious. 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 02:35PM BLOOD WBC-6.7 RBC-4.13 Hgb-12.5 Hct-39.4 MCV-95 
MCH-30.3 MCHC-31.7* RDW-12.9 RDWSD-45.6 Plt ___
___ 02:35PM BLOOD Neuts-72.8* Lymphs-13.2* Monos-9.9 
Eos-3.1 Baso-0.7 Im ___ AbsNeut-4.87 AbsLymp-0.88* 
AbsMono-0.66 AbsEos-0.21 AbsBaso-0.05
___ 02:35PM BLOOD ___ PTT-33.0 ___
___ 02:35PM BLOOD Plt ___
___ 02:35PM BLOOD Glucose-107* UreaN-13 Creat-0.8 Na-140 
K-4.1 Cl-101 HCO3-26 AnGap-17
___ 02:35PM BLOOD ALT-15 AST-26 AlkPhos-66 TotBili-0.2
___ 02:35PM BLOOD Lipase-34
___ 06:00AM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.2 Cholest-164
___ 02:35PM BLOOD Albumin-4.2
___ 06:00AM BLOOD %HbA1c-5.3 eAG-105
___ 06:00AM BLOOD Triglyc-68 HDL-71 CHOL/HD-2.3 LDLcalc-79
___ 06:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:35PM BLOOD LtGrnHD-HOLD

DISCHARGE LABS:
===============

___ 06:00AM BLOOD WBC-5.1 RBC-3.88* Hgb-12.0 Hct-37.0 
MCV-95 MCH-30.9 MCHC-32.4 RDW-13.2 RDWSD-45.4 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-140 
K-3.9 Cl-101 HCO3-30 AnGap-13
___ 06:00AM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.2 Cholest-164
___ 06:00AM BLOOD %HbA1c-5.3 eAG-105
___ 06:00AM BLOOD Triglyc-68 HDL-71 CHOL/HD-2.3 LDLcalc-79

IMAGING:
=========
___ Imaging MR HEAD W & W/O CONTRAS 
1.  Study is moderately degraded by motion. 
2. No evidence of acute infarct. 
3.  Within limits of study, no definite evidence of intracranial 
metastatic 
disease. 
4.  Paranasal sinus disease as described. 

CTA head/neck ___: wet read
"CT HEAD WITHOUT CONTRAST:
There is no evidence of no evidence of infarction, hemorrhage,
edema, or mass.

CTA HEAD:
The left P1 segment of the posterior cerebral artery is not well
visualized possibly due to congenital absence vs severe stenosis
(series 5: Image 241-242 and series 604D: Image 29). A
fenestration is noted at the origin of the right P2 segment of
the posterior cerebral artery (series 5: Image 246) otherwise,
the remaining vessels of the circle of ___ and their 
principal
intracranial branches appear normal without stenosis, occlusion,
or aneurysm formation. The dural venous sinuses are patent.

CTA NECK:
The carotid and vertebral arteries and their major branches
appear normal with no evidence of stenosis or occlusion. There 
is
no evidence of internal carotid stenosis by NASCET criteria.
Atherosclerotic calcifications are seen at the left carotid
bifurcation.

OTHER:
There is complete total opacification of the right lung apex, of
uncertain etiology. Respiratory motion artifact is noted in the
left lung apex, limiting assessment for small pulmonary nodules.
Scarring is noted at the left lung apex. The thyroid gland
appears unremarkable. There is no lymphadenopathy by CT size
criteria."

CXR ___:
"1. Patient is status post right pneumonectomy and left
mastectomy. The apparent whiteout of the right hemithorax is
secondary to patient's right pneumonectomy and relatively
increased soft tissue density imposed by the right breast.
2. The left lung appears normal without focal consolidation or
pleural effusion"
 
Brief Hospital Course:
___ woman with a history of atrial fibrillation (not on 
anticoagulation) and hyperlipidemia who presents with 4 days of 
dizziness, gait unsteadiness, tinnitus, and headache. 

Patient presented to her PCP with signs of gait unsteadiness, 
tinnitus and was referred to the ED for neuro eval. Patient was 
assessed in the ED and was noted to have L gaze nystagmus with 
left gaze, R gaze nystagmus with right gaze and gait 
unsteadiness, although patient had no focal weakness, no 
ptosis/facial droop and no dysmetria. However, due to direction 
changing nystagmus, continued tinnitus and unsteady gait 
compared to baseline, patient was admitted to the Neurology 
service for futher workup. Patient received a NCHCT which was 
negative for hemorrhage or large territory infarct, however CTA 
of the head showed concerns for lack of visualization of the P1 
segment of the PCA. Although this may have been due to 
congenital absence, concern remained for possible severe 
stenosis at this site causing lack of visualization of this 
segment of the PCA, which was concerning in the setting of 
patients posterior circulation symptoms. Patient was assessed 
with an MRI which showed no evidence of an acute ischemic 
infarct, which was reassuring for no new posterior territory 
infarct. 

Patient was further assessed with a stroke risk factor workup, 
and was noted to have a normal HgbA1c of 5.3 and LDL of 79. 
Patient further was noted to have a CHADS-Vasc score of 3, which 
would put her in the moderate-high risk category and would make 
patient a candidate for anticoagulation. Of note, patient was 
maintained on telemetry during this hospitalization and was 
noted to be in sinus rhythm throughout her stay.

Patients outpatient cardiologist Dr. ___ ___ 
Cardiology) was contacted with regards to her outpatient 
anticoagulation plan, and noted that patients Afib was 
perioperative, with paroxysmal Afib as her diagnosis. Dr. ___ 
was informed regarding patients stroke risk workup and her 
CHADS-Vasc score, and noted that in the setting of no evidence 
of ischemic infarct on MRI, patient should be maintained on 
aspirin 81mg daily.

Patient was further assessed with orthostatics which were 
positive on this admission. Patients light-headedness may have 
been partially due to patients volume status. Patient was given 
IVF hydration and encouraged to continue good solid/liquid 
intake at home. 

A plan was further made for patient to continue to monitor her 
symptoms which were likely due to a peripheral vestibulopathy in 
the setting of recent URI, with resolving symptoms at the time 
of discharge. Meniere's disease is also in the differential. She 
was further advised to followup with her PCP at the appointment 
listed above.

Transitional issues:
====================
[] Please followup patients tinnitus and gait unsteadiness, 
likely due to a peripheral vestibulopathy in the setting of a 
recent URI. Patient had no evidence of a posterior territory 
infarct on MRI, and her symptoms were improving at the time of 
discharge. Patient will continue to monitor her symptoms and 
represent to Neurology clinic if her symptoms recur. Patient 
will further followup with her PCP as her symptoms were self 
resolving at the time of discharge. 
[] Of note, patients CTA of the head and neck showed lack of 
visualization of the P1 segment of the PCA, which is likely due 
to a congenital absence rather than new clot/stenosis. Patient 
had a reassuring MRI head with no evidence of a posterior 
territory infarct, however patient will continue to monitor her 
symptoms as noted above with low threshold to represent to the 
hospital if she has worsening/persistent symptoms in the setting 
of her vascular findings.
[] Please follow-up patients anticoagulation plan. As noted 
above, patient has a CHADSVasc score of 3 which places her in 
the moderate-high risk category and may benefit from 
anticoagulation to prevent a stroke, however, patients 
anticoagulation plan was discussed with outpatient cardiologist 
who noted that patients diagnosis was paroxysmal Afib diagnosed 
in the perioperative period, and thus patient should be 
continued on Aspirin 81mg at this time. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. TraZODone 50 mg PO QHS:PRN Insomnia 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Pravastatin 40 mg PO QPM  
3.  TraZODone 50 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Peripheral vestibulopathy

Secondary diagnosis: orthostatic hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were hospitalized due to symptoms of dizziness, gait 
unsteadiness, headache and a persistent ringing sensation in 
your ears.

Due to your symptoms, ___ were assessed in the ED and a decision 
was made to admit ___ to the stroke Neurology service. While 
admitted to the hospital, a CAT scan of your brain showed no 
evidence of hemorhage in the brain. Furthermore, a followup MRI 
of the head showed no evidence of an ischemic or hemorrhagic 
stroke. While we were able to determine that a stroke was not 
the cause of your symptoms, it is unclear why ___ had the above 
symptoms which brought ___ into the hospital. One possibility is 
irritation or inflammation of your inner ear which caused ___ to 
have gait unsteadiness, light-headedness and hearing changes. 
These symptoms are usually self-resolving, and your symptoms 
were markedly improving with minimal interventions of IV fluid 
hydration and pain control while ___ were in the hospital. 
Furthermore, your blood pressure was noted to be decreased when 
___ went from lying to standing position, which may be causing 
your symptoms of light-headedness. ___ were encouraged to 
continue to stay well hydrated and have good solid and liquid 
intake. 

At the time of discharge ___ felt more stable with ambulation, 
and furthermore, your light-headedness and dizziness had 
resolved while ___ were in the hospital. Thus a plan was made 
for ___ to be discharged with close followup with your PCP. We 
ask that ___ followup with your PCP ___ ___ weeks, however if ___ 
have any of the warning symptoms listed below, please contact 
your PCP for further ___ or present to your nearest ED.

While ___ did not have a stroke on this admission, ___ were 
assessed ___ for medical conditions that might raise your risk 
of having stroke. Your risk factors are:
Paroxysmal Afib
Hyperlipidemia

No changes are being made to your medications at this time. 
Please take all your medications as prescribed.

Please follow up with your PCP and with your cardiologist as 
listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___